US06515011B2
1-((2R)-3,3-Dimethyl-2-hydroxybutanoyl)-N-(2-aminomethyl-5-chlorobenzyl)-L-prolinamide
1-((2R)-3,3-Dimethyl-2-hydroxybutanoyl)-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)-L-prolinamide from the previous step (4.65 g, 9.65 mmol, HPLC RT=3.35 min) was dissolved in CH2Cl2 (15 mL) and cooled with stirring to 0° C. A solution of anhydrous HCl in ether (38 mL of a 1 Molar solution, 38 mmol) was added slowly. The resulting solution was stirred at 0° C. for 10 min, and then at ambient temperature for 20 h. The solid which had formed was collected by filtration and washed with several portions of ether. The solid was purified by preparative reverse-phase HPLC using an acetonitrile:water gradient containing 0.05% concentrated HCl. The product-containing fractions were combined and lyophilized to give the hydrochloride salt of the title compound as a white solid (HPLC RT=2.52 min, method A; LC-MS m/z=382; C, H, N combustion analysis, calculated for C19H28ClN3O3, 1.0HCl, 1.5H2O, calculated C, 51.24, H, 7.24, N, 9.43, found C, 51.32, H, 7.17, B, 9.33).

reactant | 1-((2R)-3,3-Dimethyl-2-hydroxybutanoyl)-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)-L-prolinamide | CC([C@H](C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CNC(=O)OC(C)(C)C)CCC1)O)(C)C | C24H36ClN3O5
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 1-((2R)-3,3-Dimethyl-2-hydroxybutanoyl)-N-(2-aminomethyl-5-chlorobenzyl)-L-prolinamide | CC([C@H](C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CN)CCC1)O)(C)C | C19H28ClN3O3
